US05877317
A mixture of (4S)-(-)-4-benzyl-2-oxazolidinone (3.903 g, 22.0 mmol) in THF (23 ml) is cooled at -78° and butyl lithium (1.6M in hexane, 14.7 ml, 23.5 mmol) is added. The mixture is stirred for 50 min and then the portion of 2-phenylpropionic acid chloride (XL) from above, in THF (8 ml) is added dropwise to the mixture. The mixture is stirred for 1 hr at -78° and then allowed to warm to 20°-25°. Saturated aqueous sodium bicarbonate solution (100 ml) is added and the phases separated. The aqueous phase is washed with ether and the combined organic phases are then washed several times with saturated aqueous sodium bicarbonate followed by a saline wash. The organic phase is dried over magnesium sulfate and concentrated. The resulting diastereomers are separated on silica gel eluting with ethyl acetate/hexane (7/93) followed by ethyl acetate/hexane (12/88). The appropriate fractions are pooled and concentrated to give (4S)-4-(phenylmethyl)-3-(2-phenylpropionyl)-2-oxazolidinone (XLI, Isomer I, less polar isomer), NMR (CDCl3) 1.55, 2.79, 3.35, 4.09, 4.58, 5.12 and 7.30 δ; and (4S)-4-(phenylmethyl)-3-(2-phenylpropionyl)-2-oxazolidinone (XLII, Isomer II, more polar isomer), NMR (CDCl3) δ1.52, 2.58, 3.09, 4.08, 4.19, 4.75, 5.11, 6.95 and 7.31 δ.

reactant | (4S)-(-)-4-benzyl-2-oxazolidinone | 22.0 mmol, 3.903 g | C(C1=CC=CC=C1)[C@@H]1NC(OC1)=O | C10H11NO2
reactant | butyl lithium | 23.5 mmol, 1.6M, 14.7 ml | C(CCC)[Li]
reactant | 2-phenylpropionic acid chloride | C1(=CC=CC=C1)C(C(=O)Cl)C | C9H9ClO
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | THF | 23 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (4S)-4-(phenylmethyl)-3-(2-phenylpropionyl)-2-oxazolidinone | C1(=CC=CC=C1)C[C@@H]1N(C(OC1)=O)C(C(C)C1=CC=CC=C1)=O | C19H19NO3
